US07435735B2
Step 7: 9-(2,4-Dimethoxybenzyl)-6,9-diazaspiro[4.5]decan-8-one
To a solution of tert-butyl 9-2,4-dimethoxybenzyl)-8-oxo-6,9-diazaspiro[4.5]decane-6-carboxylate (1.76 g, 4.36 mmol) in dioxane (34 mL) at 0° C. was added 4.0M HCl in dioxane (10.22 mL, 40.89 mmol). The reaction was stirred at room temperature for 4 days and treated with MP-carbonate resin (6.70 g, load value of 2.62 mmol/g) and Hunig's base (26 μL). The mixture was placed on a rotator for 2 days and filtered, washing with CH2Cl2. The resulting filtrate was concentrated in vacuo to afford the product as an orange oil.

reactant | 8-oxo-6,9-diazaspiro[4.5]decane-6-carboxylate | 4.36 mmol, 1.76 g | O=C1CN(C2(CCCC2)CN1)C(=O)[O-]
reactant | HCl | 4.0M | Cl | ClH
reactant | MP-carbonate resin | 6.70 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
reactant | Hunig's base | 26 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | dioxane | 34 mL | O1CCOCC1 | C4H8O2
reactant | dioxane | 40.89 mmol, 10.22 mL | O1CCOCC1 | C4H8O2
product | 9-(2,4-Dimethoxybenzyl)-6,9-diazaspiro[4.5]decan-8-one | COC1=C(CN2C(CNC3(CCCC3)C2)=O)C=CC(=C1)OC | C17H24N2O3
